US05631373
7-Chloro-3,4-dihydro-6-methylquinoxaline-2(1H)-one.
To a stirred bright orange solution of N-(4'-chloro-5'-methyl-2'-nitrophenyl)glycine potassium salt (0.097 g, 0.36 mmol) in water (5.0 mL) at 80° C., sodium dithionite (0.500 g, 2.87 mmol) was added in two equal portions. It instantly formed a white suspension, which was stirred at 80° C. for 1 h. It was then cooled at room temperature and the solid was vacuum filtered, washed with water (5.0 mL), and dried in vacuo to yield 0.062 g (86%) of the title compound as a white powder; 1H NMR (DMSO-d6): δ2.10 (s, 3H), 3.66 (s, 2H, J=1.2 Hz), 5.98 (s, 1H), 6.53 (s, 1H), 6.67 (s, 1H), 10.20 (s, 1H).

reactant | N-(4'-chloro-5'-methyl-2'-nitrophenyl)glycine potassium salt | 0.36 mmol, 0.097 g | [K+].ClC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-]
reactant | sodium dithionite | 2.87 mmol, 0.500 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 5.0 mL | O | H2O
product | 7-Chloro-3,4-dihydro-6-methylquinoxaline-2(1H)-one | 0.062 g, 86% | ClC1=C(C=C2NCC(NC2=C1)=O)C | C9H9ClN2O
